US08003792B2
Step A. 3,3-Bis[2-(tetrahydro-2H-pyran-2-yloxy)ethyl]-1,3-dihydro-2H-indol-2-one
Potassium tert-butoxide (10.1 g, 90.1 mmol) was added to a solution of oxindole (3.00 g, 22.5 mmol) in THF (50 mL) at −75° C. and the mixture was allowed to warm to ambient temperature. After 1 h, the reaction was cooled to −75° C. and 2-(2-bromoethoxy)tetrahydro-2H-pyran (7.15 mL, 47.3 mmol) was added dropwise over 10 min. After 18 h, the mixture was partitioned between EtOAc (100 mL) and H2O (100 mL). The layers were separated and the aqueous layer was further extracted with EtOAc (2×50 mL). The combined organics were dried over Na2SO4, filtered, and concentrated in vacuo. Purification by silica gel chromatography, eluting with a gradient of hexane:EtOAc-100:0 to 80:20, gave the title compound. MS: 71/z=390 (M+1).

reactant | Potassium tert-butoxide | 90.1 mmol, 10.1 g | CC(C)([O-])C.[K+]
reactant | oxindole | 22.5 mmol, 3.00 g | N1C(CC2=CC=CC=C12)=O | C8H7NO
reactant | 2-(2-bromoethoxy)tetrahydro-2H-pyran | 47.3 mmol, 7.15 mL | BrCCOC1OCCCC1 | C7H13BrO2
solvent | THF | 50 mL | C1CCOC1 | C4H8O
product | 3,3-Bis[2-(tetrahydro-2H-pyran-2-yloxy)ethyl]-1,3-dihydro-2H-indol-2-one | O1C(CCCC1)OCCC1(C(NC2=CC=CC=C12)=O)CCOC1OCCCC1 | C22H31NO5
